US07977331B1
To a solution of 1-bromo-2,4-bismethoxymethoxybenzene in hexane (250 ml) and tetrahydrofuran (110 ml) was added triisopropyl borate (45 g, 238 mmol), and the mixture was cooled to −78° C. A solution (151 ml, 238 mmol) of 1.58M n-butyllithium in hexane was added dropwise and the mixture was stirred for 5 hr. 1N Hydrochloric acid (240 ml) was added under ice-cooling, and the mixture was stirred for 15 min. The reaction mixture was extracted with ethyl acetate, and the organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. After filtration, the solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1) to give 2,4-bismethoxymethoxyphenylboronic acid (13.6 g, yield 35%).

reactant | 1-bromo-2,4-bismethoxymethoxybenzene | BrC1=C(C=C(C=C1)OCOC)OCOC | C10H13BrO4
reactant | triisopropyl borate | 238 mmol, 45 g | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | n-butyllithium | 238 mmol, 1.58M, 151 ml | C(CCC)[Li]
reactant | Hydrochloric acid | 1N, 240 ml | Cl | ClH
solvent | hexane | 250 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 110 ml | O1CCCC1 | C4H8O
product | 2,4-bismethoxymethoxyphenylboronic acid | 13.6 g, yield 35% | COCOC1=C(C=CC(=C1)OCOC)B(O)O | C10H15BO6
